US06326369B1
7-[2-(4-Acetoamidophenoxy)ethyl]-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a solution of 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione (101 mg), p-hydroxyacetanilide (166 mg), and triphenylphosphine (126 mg) in THF (2 ml) was added a solution of diethyl azodicarboxylate (81 mg) in THF (1 ml) at room temperature. The reaction mixture was stirred at room temperature for 80 min and concentrated. The residue was purified successively by silica gel column chromatography (eluent:ethyl acetate/hexane=1/1) and by alumina column chromatography (eluent:ethyl acetate/hexane=1/1) and then with recrystallization from ethyl acetate-hexane to obtain the entitled compound (93 mg).

reactant | 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 101 mg | OCCC1CCC2=C(CC1)C(C(=C(C2=O)OC)OC)=O | C15H20O5
reactant | p-hydroxyacetanilide | 166 mg | OC1=CC=C(NC(C)=O)C=C1 | C8H9NO2
reactant | triphenylphosphine | 126 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 81 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 7-[2-(4-Acetoamidophenoxy)ethyl]-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 93 mg | C(C)(=O)NC1=CC=C(OCCC2CCC3=C(CC2)C(C(=C(C3=O)OC)OC)=O)C=C1 | C23H27NO6
